* C:\Users\You\Documents\Project-Calypso\Simulation\LED_CurrentDrive.asc
V1 Vcc 0 3.3
D1 Vcc Vcc NSSWS108T
R1 N005 0 7.5
M1 Vcc N004 N005 N005 2N7002
XU1 N002 N005 Vcc 0 N003 LTC6241
V2 N001 0 1
R2 N002 N001 10k
R3 0 N002 10k
C1 N004 N005 0.1µ
R4 N004 N003 220
.model D D
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10e-4
.lib LTC4.lib
.backanno
.end
